US07723331B2
c) 6-(4-Chlorophenyl)-3-{3-[(1,3-dimethylpiperidin-3-yl)methoxy]benzyl}thieno[3,2-d]pyrimidin-4(3H)-one
5-(4-Chloro-phenyl)-3-(dimethylamino-methyleneamino)-thiophene-2-carboxylic acid methyl ester (0.16 g, 0.5 mmol), 1-{3-[(1,3-dimethylpiperidin-3-yl)methoxy]phenyl}methanamine (0.10 g, 0.4 mmol) in MeOH (2 mL) were heated by microwave at 120° C. for 20 minutes. The reaction mixture was allowed to cool to room temperature and the precipitate was filtered off and washed with MeOH to give the title compound as a solid. Yield: 0.12 g (49%). 1H NMR (400 MHz, CDCl3) δ 8.09 (s, 1H), 7.61 (d, 2H, J=8.91 Hz), 7.45 (s, 1H), 7.43 (d, 2H, J=8.91 Hz), 7.21-7.25 (m, 1H), 6.84-6.92 (m, 3H), 5.17 (s, 2H), 3.72-3.83 (m, 2H), 2.34 (m, 2H), 2.18 (s, 3H), 2.06 (m, 1H), 1.49-1.64 (m, 4H), 1.18 (m, 1H), 1.04 (s, 3H). MS (ESI+) 494.06 (M+1H+).

reactant | 5-(4-Chloro-phenyl)-3-(dimethylamino-methyleneamino)-thiophene-2-carboxylic acid methyl ester | 0.5 mmol, 0.16 g | COC(=O)C=1SC(=CC1N=CN(C)C)C1=CC=C(C=C1)Cl | C15H15ClN2O2S
reactant | 1-{3-[(1,3-dimethylpiperidin-3-yl)methoxy]phenyl}methanamine | 0.4 mmol, 0.10 g | CN1CC(CCC1)(C)COC=1C=C(C=CC1)CN | C15H24N2O
solvent | MeOH | 2 mL | CO | CH4O
product | 6-(4-Chlorophenyl)-3-{3-[(1,3-dimethylpiperidin-3-yl)methoxy]benzyl}thieno[3,2-d]pyrimidin-4(3H)-one | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)CC1=CC(=CC=C1)OCC1(CN(CCC1)C)C | C27H28ClN3O2S
